US06329405B1
(64a) N-[(R)-1-(3,5-Difluorophenyl)ethyl]-N-[(4-methoxyphenyl)-(3-nitrophenyl)methyl]amine
Following a reaction and purification procedure similar to those described in Example (1a), 4.42 of 4-methoxyphenyl 3-nitrophenyl ketone, 4.42 g of (R)-1-(3,5-difluorophenyl)ethylamine hydrochloride, 11.7 ml of triethylamine, 2.01 ml of titanium tetrachloride, 4.25 g of sodium cyanoborohydride and 1.31 ml of acetic acid were reacted, to obtain 860 mg of the more polar isomer B of the title compound as a yellow oil.

reactant | 4-methoxyphenyl 3-nitrophenyl ketone | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)C1=CC=C(C=C1)OC | C14H11NO4
reactant | (R)-1-(3,5-difluorophenyl)ethylamine hydrochloride | 4.42 g | Cl.FC=1C=C(C=C(C1)F)[C@@H](C)N
reactant | triethylamine | 11.7 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 4.25 g | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 2.01 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 1.31 ml | C(C)(=O)O | C2H4O2
product | N-[(R)-1-(3,5-Difluorophenyl)ethyl]-N-[(4-methoxyphenyl)-(3-nitrophenyl)methyl]amine | FC=1C=C(C=C(C1)F)[C@@H](C)NC(C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)OC | C22H20F2N2O3
